US05521188
5-(4-Methyl-5-nitroindol-3-ylmethyl)-2,2-dimethyl-1,3-dioxane-4,6-dione
An adaption of the procedure of Flaugh was used. Thus, a solution of 4-methyl-5-nitroindole (0.880 g, 5.00 mmol), Meldrum's acid (0.864 g, 6.00 mmol), 37% aqueous formaldehyde (0.5 mL, 6.0 mmol) and D,L-proline (0.029 g, 0.25 mmol) in 25 mL of acetonitrile was stirred at room temperature for 72 h. The resulting yellow slurry was stored at -20° C. and then the cold mixture was filtered. The filtercake was washed with cold acetonitrile and ether, and then it was dried in vacuo to give the title compound (1.055 g, 64%) as a canary-yellow solid, mp 196°-198° C. (dec): IR (KBr) 3338, 1782, 1742 cm-1 ; 1H NMR (DMSO-d6, 200 MHz) δ 11.46 (br s, 1H), 7.61 (d, J=8.9 Hz, 1H), 7.32 (d, J=8.9 Hz, 1H), 7.25 (d, J= 2.4 Hz, 1H), 4.74 (t, J=5.0 Hz, 1H), 3.64 (d, J=4.9 Hz, 1H), 2.80 (s, 3H), 1.84 (s, 3H), 1.69 (s, 3H). Anal. Calcd for C16H16N2O6 : C, 57.83; H, 4.85; N, 8.43. Found: C, 57.42; H, 4.68; N, 8.52.

reactant | 4-methyl-5-nitroindole | 5.00 mmol, 0.880 g | CC1=C2C=CNC2=CC=C1[N+](=O)[O-] | C9H8N2O2
reactant | Meldrum's acid | 6.00 mmol, 0.864 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | formaldehyde | 6.0 mmol, 0.5 mL | C=O | CH2O
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
catalyst | D,L-proline | 0.25 mmol, 0.029 g | N1C(C(=O)O)CCC1 | C5H9NO2
product | 5-(4-Methyl-5-nitroindol-3-ylmethyl)-2,2-dimethyl-1,3-dioxane-4,6-dione | 1.055 g, 64% | CC1=C2C(=CNC2=CC=C1[N+](=O)[O-])CC1C(OC(OC1=O)(C)C)=O | C16H16N2O6
